US04000154
cis-2-azidomethyl-4-oxo-3-phenoxyacetylaminoazetidine
A mixture containing 1.131 g (2.8 mmole) of cis-4 -oxo-3-phenoxyacetylamino-2-p-toluenesulfonyloxymethyl-azetidine, 0.961 g (14.8 mmole) of sodium azide and 25 ml of anhydrous N,N-dimethylformamide was heated under argon at 40° for 6 hours then at ambient temperature for 24 hours. The reaction mixture was poured into ethyl acetate and was washed with water. The combined aqueous washes were extracted once with ethyl acetate and the ethyl acetate fractions were combined and extracted with brine. After drying the ethyl acetate solution (MgSO4) and filtering, the solvent was removed in vacuo to afford to a yellow semi-crystalline residue. This residue was slurried in methylene dichloride and chromatographed on 25 g of silica gel (70-230 mesh). The 1:1 ethyl acetate:methylene dichloride fractions afforded the title compound; tlc: ethyl acetate, silica gel GF, Rf = 0.38; mp 142°-143°(dec) (ethyl acetate-hexane).

reactant | cis-4 -oxo-3-phenoxyacetylamino-2-p-toluenesulfonyloxymethyl-azetidine | 2.8 mmole, 1.131 g | O=C1[C@@H]([C@@H](N1)COS(=O)(=O)C1=CC=C(C=C1)C)NC(COC1=CC=CC=C1)=O | C19H20N2O6S
reactant | sodium azide | 14.8 mmole, 0.961 g | [N-]=[N+]=[N-].[Na+]
reactant | N,N-dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methylene dichloride | C(Cl)Cl | CH2Cl2
product | cis-2-azidomethyl-4-oxo-3-phenoxyacetylaminoazetidine | N(=[N+]=[N-])C[C@@H]1NC([C@@H]1NC(COC1=CC=CC=C1)=O)=O | C12H13N5O3
